US09290483B2
Synthesis of 3,6-dibromo-9-{3-[(2,2-dimethyl-1,3-di-oxolan-4-yl)methoxy]propyl}-9H-carbazole
Potassium terbutylate (0.8 g, 7.1 mmoles) are added, in an inert atmosphere, to a solution of solketal (0.9 g, 7.1 mmoles) in 10 ml of 1,2-dimethoxyethane. After 15 minutes, 3,6-dibromo-9-(3′-bromopropyl)carbazole (2.1 g, 4.7 mmoles) dissolved in 10 ml of 1,2-dimethoxyethane, are added dropwise. After hours, the 1,2-dimethoxyethane is removed by distillation at reduced pressure, the residue is recovered with water and extracted with ethyl acetate. After washing the organic phase with water until neutrality, said organic phase is anhydrified on sodium sulfate. The solvent is removed by distillation at reduced pressure. After purification by elution on an alumina column (heptane/ethyl acetate=9/1), 1.6 g of 3,6-dibromo-9-{(3-[(2,2-dimethyl-1,3-di-oxolan-4-yl)methoxy]propyl}-9H-carbazole are obtained (yield=70%).

reactant | solketal | 7.1 mmoles, 0.9 g | CC1(OCC(O1)CO)C | C6H12O3
reactant | 3,6-dibromo-9-(3′-bromopropyl)carbazole | 4.7 mmoles, 2.1 g | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)CCCBr | C15H12Br3N
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
solvent | 1,2-dimethoxyethane | 10 ml | COCCOC | C4H10O2
product | 3,6-dibromo-9-{3-[(2,2-dimethyl-1,3-di-oxolan-4-yl)methoxy]propyl}-9H-carbazole | yield=70% | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)CCCOCC1OC(OC1)(C)C | C21H23Br2NO3
